US04801717
N-hydroxy-phthalimide and 5-nitro-6-chloro-quinoline were reacted to form 0-(5-nitro-6-quinolyl)-phthalimide melting at 185° C. which was reacted to obtain 0-(5-nitro-6-quinolyl)hydroxylamine melting at 165° C.

reactant | N-hydroxy-phthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 5-nitro-6-chloro-quinoline | [N+](=O)([O-])C1=C2C=CC=NC2=CC=C1Cl | C9H5ClN2O2
product | 0-(5-nitro-6-quinolyl)-phthalimide | [N+](=O)([O-])C1=C2C=CC=NC2=CC=C1C12C(C(=O)NC1=O)C=CC=C2 | C17H11N3O4
